US07973169B2
48) N-[5-(2-Chloro-benzyl)-thiazol-2-yl]-2-piperidin-1-yl-butyramide
2-Bromo-N-[5-(2-chloro-benzyl)-thiazol-2-yl]-butyramide (37 mg, 0.10 mmol) was dissolved in 0.5 mL of N,N-dimethylformamide containing piperidine (170 mg, 2.0 mmol). The reaction vessel was sealed and then subjected to microwave irradiation for 5 minutes at 80° C. The crude mixture was evaporated to dryness and purified by reverse-phase preparative liquid chromatography (31 mg, 0.082, 82%). ESI-MS m/z calc. 377.1, found 378.2 (M+1)+ Retention time 2.21 minutes.

reactant | 2-Bromo-N-[5-(2-chloro-benzyl)-thiazol-2-yl]-butyramide | 0.10 mmol, 37 mg | BrC(C(=O)NC=1SC(=CN1)CC1=C(C=CC=C1)Cl)CC | C14H14BrClN2OS
reactant | piperidine | 2.0 mmol, 170 mg | N1CCCCC1 | C5H11N
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | N-[5-(2-Chloro-benzyl)-thiazol-2-yl]-2-piperidin-1-yl-butyramide | ClC1=C(CC2=CN=C(S2)NC(C(CC)N2CCCCC2)=O)C=CC=C1 | C19H24ClN3OS
